US05574097
N-[2-(1-acetoxyethoxycarbonyloxy)propyl]methacrylamide
A THF solution (100 ml) of TBA acetate (6.93 g, 23 mmol), prepared by freeze-drying an aqueous solution of equimolar TBA-OH and acetic acid, was added to a stirred solution of N-[2-(1-chloroethoxycarbonyloxy)propyl]methacrylamide (4.736 g, 19 mmol) in THF (100 ml) at room temperature. Following stirring for 4 days the solvent was removed under reduced pressure and the residue was dissolved in chloroform (100 ml) and washed with water (5×20 ml). The organic phase was dried (MgSO4) and the solvent removed under reduced pressure. Flash chromatography (silicagel, hexane/ethyl acetate (3:4)) gave 1.29 g (25%) of the title product.

reactant | acetate | 23 mmol, 6.93 g | C(C)(=O)[O-]
reactant | N-[2-(1-chloroethoxycarbonyloxy)propyl]methacrylamide | 19 mmol, 4.736 g | ClC(C)OC(=O)OC(CNC(C(=C)C)=O)C | C10H16ClNO4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-[2-(1-acetoxyethoxycarbonyloxy)propyl]methacrylamide | 1.29 g, 25% | C(C)(=O)OC(C)OC(=O)OC(CNC(C(=C)C)=O)C | C12H19NO6
